US07691869B2
B. N′-(2-Amino-7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)furan-2-carbohydrazide
A solution of the title A compound, 4-chloro-7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine (75 mg, 0.19 mmol) and 2-furoic acid hydrazide (49 mg, 0.39 mmol) in 1 mL of NMP is heated at 150° C. for 3 h. After cooling to RT, the crude reaction is purified by column chromatography on silica gel, eluting with a gradient of 5% to 10% of MeOH in EtOAc. Fractions containing the product are combined and evaporated to dryness to 4-yl)furan-2-carbohydrazide as a yellow solid: LC/MS (M+1=483.2).

reactant | 4-chloro-7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 0.19 mmol, 75 mg | ClC=1C2=C(N=C(N1)N)N(C=C2)CCN2CCN(CC2)C2=C(C=C(C=C2)F)F | C18H19ClF2N6
reactant | 2-furoic acid hydrazide | 0.39 mmol, 49 mg | O1C(=CC=C1)C(=O)NN | C5H6N2O2
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | N′-(2-Amino-7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)furan-2-carbohydrazide | NC=1N=C(C2=C(N1)N(C=C2)CCN2CCN(CC2)C2=C(C=C(C=C2)F)F)NNC(=O)C=2OC=CC2 | C23H24F2N8O2
